US04073882
(a) A synthetis of 5-methyl-3-n-butyl-6,8-dicarbethoxy-7-keto-octahydroindolizine (II)
A solution of 434 g (2 (Mol) 4-amino-octanal diethyl-acetal in 2 liters of ethanol (water free) was brought to pH4 with 0.5 N hydrochloric acid. To this solution 404 g (2 Mol) diethyl-3-oxo- glutarate and 88 g (2 Mol) acetaldehyde were added. The reaction mixture was stirred during three days at room temperature and was then brought to pH7 to 8 by addition of sodium carbonate powder.

reactant | 4-amino-octanal diethyl-acetal | C(C)OC(CCC(CCCC)N)OCC | C12H27NO2
reactant | hydrochloric acid | 0.5 N | Cl | ClH
reactant | diethyl-3-oxo- glutarate | C(C)OC(CC(CC(=O)OCC)=O)=O | C9H14O5
reactant | acetaldehyde | 2 Mol, 88 g | C(C)=O | C2H4O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 2 liters | C(C)O | C2H6O
product | 5-methyl-3-n-butyl-6,8-dicarbethoxy-7-keto-octahydroindolizine | CC1N2C(CCC2C(C(C1C(=O)OCC)=O)C(=O)OCC)CCCC | C19H31NO5
